US05834462
2.85 g (14 mmol) of 1-chloro-2,6-dinitrobenzene and 1.73 g (14 mmol) of 2-aminobenzyl alcohol were dissolved in 30 ml of triethylamine and heated under reflux for 24 hours. After concentrating, the residue was purified by silica gel column chromatography. Thus 2.2 g of 2-((2,6-dinitrophenyl)amino) benzyl alcohol was obtained. 0.29 g (1 mmol) of this powder was dissolved in 20 ml of dry dimethylformamide. After adding 40 mg (1 mmol) of sodium hydride (in oil, content: 60%), the reaction mixture was stirred at room temperature for 15 minutes and then at 150° C. for 2 hours. After cooling, 200 ml of ethyl acetate was added thereto and the mixture was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography. Thus 0.14 g of the title compound was obtained.

reactant | 1-chloro-2,6-dinitrobenzene | 14 mmol, 2.85 g | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | 2-aminobenzyl alcohol | 14 mmol, 1.73 g | NC1=C(CO)C=CC=C1 | C7H9NO
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | 2-((2,6-dinitrophenyl)amino) benzyl alcohol | 2.2 g | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])NC1=C(CO)C=CC=C1 | C13H11N3O5
